US07087601B2
A solution of triphenylphosphine (126 mg, 0.48 mmol), DEAD (84 mg, 0.48 mmol) and THF (2 mL) was stirred 2 h and a solution of [4-(1,3-benzoxazol-2-yl)-2-hydroxyphenyl], acetonitrile (100 mg, 0.4 mmol) and 4-fluorophenethylalcohol (56 mg, 0.4 mmol) in THF (2 mL) was added. The resulting reaction mixture was stirred overnight and the THF was removed in vacuo. The resulting residue was purified on Prep TLC (1000 μm) to afford {4-(1,3-benzoxazol-2-yl)-2-[2-(4-fluorophenyl)ethoxy]phenyl}acetonitrile. 1H NMR (CD3OD, 300 MHz), δ 7.88 (d 1H), 7.78 (m, 2H), 7.60 (m, 1H), 7.52 (d, 1H), 7.40 (d, 2H), 7.30 (m, 2H), 7.05 (m, 1H), 4.40 (m, 2H), 3.70 (s, 2H), 3.20 (m, 2H). MS (ESI) 373(M+H)+.

reactant | triphenylphosphine | 0.48 mmol, 126 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.48 mmol, 84 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | acetonitrile | 0.4 mmol, 100 mg | C(C)#N | C2H3N
reactant | 4-fluorophenethylalcohol | 0.4 mmol, 56 mg | FC1=CC=C(CCO)C=C1 | C8H9FO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {4-(1,3-benzoxazol-2-yl)-2-[2-(4-fluorophenyl)ethoxy]phenyl}acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)OCCC2=CC=C(C=C2)F | C23H17FN2O2
